US08809397B2
To a stirred solution of 5-chloro-5-cyanobicyclo[2,2,2]oct-2-ene (65 g, 0.39 mol) (representing several runs of the foregoing procedure) in dimethyl sulfoxide (500 mL) was added potassium hydroxide (87.4 g, 1.56 mol) and water (30 mL). The resulting mixture was stirred at room temperature for 15 h, diluted with water (1000 mL) and extracted with ether (4×500 mL). The combined ether extracts were washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by chromatography on silica gel, eluting with mixtures of diethyl ether (1% to 5%) in petroleum ether, to give bicyclo[2,2,2]oct-5-en-2-one (23.8 g. 50% yield) as a white solid, 1H NMR (300 MHz, CDCl3) δ 1.53˜1.84 (m, 4H), 2.01˜2.02 (m, 2H), 2.96˜2.99 (m, 1H), 3.11˜3.13 (m, 1H), 6.15˜6.21 (m, 1H), 6.43˜6.48 (m, 1H); GCMS (m/z): 122.

reactant | 5-chloro-5-cyanobicyclo[2,2,2]oct-2-ene | 0.39 mol, 65 g | ClC1(C2C=CC(C1)CC2)C#N | C9H10ClN
reactant | potassium hydroxide | 1.56 mol, 87.4 g | [OH-].[K+]
solvent | dimethyl sulfoxide | 500 mL | CS(=O)C | C2H6OS
solvent | water | 1000 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | bicyclo[2,2,2]oct-5-en-2-one | 23.8 g, 50% yield | C12C(CC(C=C1)CC2)=O | C8H10O
